Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year-old right-handed man visiting from ___ with a
history of MI, s/p CABG in ___ and an extensive smoking history
presents with the onset of left-sided weakness, first 
appreciated
by family this morning at 7:30 am.  The patient was reportedly
last seen well and in his usual state of health at 10 pm last
evening, when he went to bed.  At 6:30 am, the family reports
that they heard him get up to use the bathroom.  At that time,
they heard something drop, and were unsure if he might have
tripped and or fallen.  They heard him cough and sneeze several
times, and he returned to bed after using the bathroom.  He
apparently went immediately back to sleep.  At 7:30 am, the
patient woke up again to go to the bathroom, and was noted to
fall on the way.  His daughter came by and helped him up, and
noted that he could not open his left eye, and also that his 
speech
was slurred.  However, he denied that anything was wrong.  He 
was
again able to use the bathroom.  Upon return to bed, his wife
noted that his left arm was oddly "contorted" and that he was
drooling out of the left side of his mouth.  Shortly thereafter,
she went to the bathroom and noted the patient's shaving items
strewn across the bathroom floor.  Upon return, she asked her
husband to raise both arms above his head, which he reportedly
could perform symmetrically, and to correctly identify the 
number
of fingers that she showed him.  She did note that his speech 
was
somewhat slurred.  His bedclothes, which were usually worn
meticulously were somewhat unkempt.  Despite the patient's 
desire
to avoid medical treatment, EMS was called and arrived at ~8:30. 

At that time, his blood pressure was 138/92 and a fingerstick 
was
96.  He was taken to ___, where a code stroke was called 
almost
immediately.  
 
Review of Systems:
The patient has a chronic cough.  Denies headache, fevers,
chills, nausea, vomiting, dysphagia, dysarthria, vision loss or
change, weakness, numbness tingling, chest pain, shortness of
breath.

 
Past Medical History:
-MI, S/P CABG x 2 in ___
-Bilateral cataracts, s/p surgery, ~ ___ years ago
- T and A as child
- appendectomy as child
-Hyperlipidemia
 
Social History:
___
Family History:
Father died of an MI at age ___, no history of stroke or seizure
 
Physical Exam:
Vitals: T N/A   BP 156/92   P 68    RR 18    SaO2 98 RA
General: NAD, well-nourished
HEENT: NC/AT, sclerae anicteric, MMM, no exudates in oropharynx
Neck: some limited ROM to passive movement, no nuchal rigidity,
no bruits
Lungs: clear to auscultation 
CV: regular rate and rhythm, no MMRG 
Abdomen:  soft, obese, non-tender, non-distended, bowel sounds
present
Ext: warm, no edema, pedal pulses appreciated, well-healed scar
from bypass surgery noted on left leg
Skin: no rashes
 
Neurologic Examination: 
Initial NIHSS = 7: 2 for facial weakness, 1 for arm and 1 for 
leg
drift, 1 for sensory, 1 for dysarthria, 1 for extinction

Mental Status: 
Awake and alert (at other times appeared minimally sleepy), able
to relay history, cooperative with exam, normal affect, appears
to be anosognosic
Oriented to person, place, time
Attention: can say months of year backward with one error
(skipping ___ that he immediately corrects 
Language: fluent, dysarthric speech, no paraphasic errors,
naming, comprehension, repetition intact; reading intact 
Calculation: can determine 7 quarters in $1.75
Fund of knowledge: able to discuss news about the ___ 
Memory: registration: ___ items, recall ___ items at 3 minutes,
then ___ items with cues 
No evidence of apraxia, though there seemed to be some 
left-sided
neglect 

Cranial Nerves: 
Optic disc margins difficult to appreciate as patient moving
eyes, no gross abnormalities noted; Visual fields are full to
confrontation. Pupils equally round and minimally reactive to
light, 3 mm bilaterally.  Extraocular movements intact in all
directions, no nystagmus, but appears to have a right gaze
deviation. Facial sensation intact bilaterally.  Left facial
droop involving mouth and eye.  Hearing intact to finger rub
bilaterally. Palate elevates midline.  Tongue protrudes midline,
no fasciculations.  Trapezii full strength on right, ___ on 
left.

 
Motor: 
Normal bulk and tone throughout. + left pronator drift.  No
tremor or asterixis.
      D T B  WE FiF  ___  IP   Q  H   TA   G ___  
Right ___  5   5     ___  5   5    5  5    5     
Left  ___ 4+  4+    4   4+  5  4+  4+   5  4+   4+     
 
Sensation: Denies deficits to light touch, pin prick, 
temperature
(cold), and vibration.  Proprioception reduced at the toes.  +
extinction to DSS on the left.  Possibly some astereognosia and
graphesthesia of left hand.
 
Reflexes: B T Br Pa Pl 
Right     ___  2  1 
Left      ___  2  1  
Toes were upgoing on left, downgoing on right. 
 
Coordination: No intention tremor. Left-sided weakness causes
some dysmetria on FNF or HKS bilaterally.
 
Gait:  Deferred at this time given imminent need for imaging and
weakness.

 
Pertinent Results:
___ 12:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 12:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-9.0* 
LEUK-NEG
___ 09:40AM   GLUCOSE-92 UREA N-12 CREAT-0.9 SODIUM-138 
POTASSIUM-5.0 CHLORIDE-104 TOTAL CO2-29 ANION GAP-10
___ 09:40AM   estGFR-Using this
___ 09:40AM   ALT(SGPT)-22 AST(SGOT)-28 LD(LDH)-194 
CK(CPK)-95 ALK PHOS-43 TOT BILI-0.5
___ 09:40AM   cTropnT-<0.01
___ 09:40AM   CK-MB-NotDone
___ 09:40AM   ALBUMIN-4.4
___ 09:40AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:40AM   WBC-4.0 RBC-4.27* HGB-14.9 HCT-42.8 MCV-100* 
MCH-35.0* MCHC-34.9 RDW-13.1
___ 09:40AM   NEUTS-57.2 ___ MONOS-6.8 EOS-2.1 
BASOS-0.6
___ 09:40AM   PLT COUNT-152
___ 09:40AM   ___ PTT-24.9 ___
___ 09:17AM   WBC-5.3 RBC-4.38* HGB-15.1 HCT-43.6 MCV-100* 
MCH-34.5* MCHC-34.7 RDW-13.8
___ 09:17AM   NEUTS-55.3 ___ MONOS-6.0 EOS-1.3 
BASOS-0.2
___ 09:17AM   PLT COUNT-191

CT/CTA - R MCA cutoff, increased mean transit time in almost the 
entire right MCA region. Decreased cerebral blood volume in the 
superior division of the right MCA. CTA brain showed either 
severe stenosis or occlusion of the superior division of the 
right MCA

Echocardiogram: PFO. Regional LV systolic dysfunction suggestive 
of CAD. The apex appears heavily trabeculated (an apical LV 
thrombus is unlikely but cannot be fully excluded on the basis 
of this study). 

MRI/MRA brain
CONCLUSION: Moderate-sized acute infarct centered in the right 
insular 
region, with redemonstration of short segment of high-grade 
stenosis of the right middle cerebral artery near its genu. The 
latter finding correlates with the area of infarction. 

Ultrasound of the lower extremities: No DVT seen. 

 
Brief Hospital Course:
Mr ___ remained stable during his admission. He was on 
telemetry monitoring and had no cardiac events. His neurological 
examination improved during the hospitalization. He was able to 
acknowledge that he had deficits on the left side of his body. 
His left facial droop, left arm weakness, and left leg drift 
improved. He was able to walk with a cane. His sensory loss on 
the left improved. There was still extinction to light touch of 
the left leg. Speech was minimally dysarthric. 
His right superior division MCA infarct may be due to a cardiac 
embolus due to his
PFO. Or he may have had large artery thrombosis of the M1 
segment of his right MCA which dislodged and then traveled 
distally to the M2 segment. TTE also showed a heavily 
trabeculated LV. Based on this study it was highly unlikely that 
there was an apical thrombus, but this possibility could not be 
excluded. Patient and his PMD were advised that he should get a 
TEE as an outpatient. Patient was switched from ASA 325mg daily 
and dipyrimadole 75mg bid to Plavix 75mg daily. 
 
Medications on Admission:
-Atenolol 50mg po QPM
-Aspirin 325 mg daily
-Dipyridimole 75 mg po bid
-Lipitor 40 mg daily

 
Discharge Medications:
1. Outpatient Physical Therapy
2. Outpatient Speech/Swallowing Therapy
3. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
4. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*0*
5. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*0*
6. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R MCA infartion
 
Discharge Condition:
The exam in back to normal, but for minimal dysarthria, mild 
left facial droop, and mild pronator drift on the left. 

 
Discharge Instructions:
You have had a stroke, which means that for a period of time 
part of your brain did not receive blood supply. 
We have contacted Mr ___ on his phone to allow him know that a 
transesophageal gradient echochardiogram may be considered to 
completely rule out an otherwise highly unlikely thrombus in his 
left atrium. 
 
Followup Instructions:
___